US05453422
c) 3-Methoxy-3-methylaminomethylpyrrolidine
8.4 g (20 mmol) of 80% strength 1-benzyl-3-benzylmethylaminomethyl-3-methoxypyrrolidine are dissolved in 100 of methanol, 4.4 ml of concentrated hydrochloric acid are added and the mixture is hydrogenated on 4 g of 10% strength Pd/active carbon at 80° C. and 120 bar. The catalyst is filtered off, the solution is concentrated, a solution of 3 g of KOH in 50 ml of methanol are added, KCl is filtered off and the solution is concentrated. The residue is taken up in CHCl3 again, the mixture is filtered, the solution is concentrated and the residue is distilled.

reactant | 1-benzyl-3-benzylmethylaminomethyl-3-methoxypyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(OC)CNCCC1=CC=CC=C1 | C21H28N2O
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | 4.4 ml | Cl | ClH
catalyst | Pd | [Pd] | Pd
product | 3-Methoxy-3-methylaminomethylpyrrolidine | COC1(CNCC1)CNC | C7H16N2O
